### PR TITLE
[Merged by Bors] - chore: replace single-subgoal `cases'`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Replace uses of `cases'` that generate only one subgoal with `obtain` (or `rcases` if it is of the form `cases' h : f x`).

```python
#!/usr/bin/env python3
import re
keys = {}

with open("cases-uses", 'r') as f:
    for l in f:
        filename, line_n, col_n, rest = l.split(':', maxsplit=3)
        i = int(line_n)-1
        col_n = int(col_n)
        head, sep, n_subgoals = rest.strip().rpartition(' ')
        n_subgoals = int(n_subgoals)
        assert head.endswith(']')
        head, sep, newvars = head[:-1].rpartition(' [')
        assert sep
        newvars = newvars.split(', ')
        if filename not in keys:
            keys[filename] = {}
        if i not in keys[filename]:
            keys[filename][i] = {}
        keys[filename][i].update({col_n: (head, newvars, n_subgoals)})

for (filename, d) in keys.items():
    with open(filename, 'r') as f:
        lines = f.readlines()
    for (i, t) in d.items():
        line = lines[i]
        for (col_n, (head, newvars, n_subgoals)) in t.items():
            cases_re = re.compile(rf"cases' (.*?) with " + " ".join(newvars))
            def rf(m):
                if n_subgoals == 1:
                    if ':' not in m[1]:
                        return f"obtain ⟨{', '.join(newvars)}⟩ := {m[1]}"
                    return f"rcases {m[1]} with ⟨{', '.join(newvars)}⟩"
                return m[0]
            line = cases_re.sub(rf, line, 1)
        lines[i] = line
    with open(filename, 'w') as f:
        f.write("".join(lines))
```

The version of `cases-uses` used for this replacement was extracted from [this run](https://github.com/leanprover-community/mathlib4/actions/runs/13362153558/job/37313542212) and is available [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/The.20plan.20to.20remove.20cases'/near/500097792).

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Taylor.lean [hunk 1]
```diff
@@ -120,7 +120,7 @@ theorem continuousOn_taylorWithinEval {f : ℝ → E} {x : ℝ} {n : ℕ} {s : S
   refine continuousOn_finset_sum (Finset.range (n + 1)) fun i hi => ?_
   refine (continuousOn_const.mul ((continuousOn_const.sub continuousOn_id).pow _)).smul ?_
   rw [contDiffOn_nat_iff_continuousOn_differentiableOn_deriv hs] at hf
-  cases' hf with hf_left
+  obtain ⟨hf_left⟩ := hf
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/Taylor.lean:123]: Let me flag this one, as it's more interesting.

File: Mathlib/CategoryTheory/Functor/FullyFaithful.lean [hunk 2]
```diff
@@ -312,8 +312,8 @@ theorem Faithful.div_comp (F : C ⥤ E) [F.Faithful] (G : D ⥤ E) [G.Faithful]
     Faithful.div F G obj @h_obj @map @h_map ⋙ G = F := by
   -- Porting note: Have to unfold the structure twice because the first one recovers only the
   -- prefunctor `F_pre`
-  cases' F with F_pre _ _; cases' G with G_pre _ _
-  cases' F_pre with F_obj _; cases' G_pre with G_obj _
+  obtain ⟨F_pre, _, _⟩ := F; obtain ⟨G_pre, _, _⟩ := G
+  obtain ⟨F_obj, _⟩ := F_pre; obtain ⟨G_obj, _⟩ := G_pre
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Functor/FullyFaithful.lean:316]: Can you combine these adjacent lines into `rcases`? That would be rather more readable, I think.

File: Mathlib/CategoryTheory/Limits/Constructions/LimitsOfProductsAndEqualizers.lean [hunk 3]
```diff
@@ -84,7 +84,7 @@ def buildIsLimit (t₁ : IsLimit c₁) (t₂ : IsLimit c₂) (hi : IsLimit i) :
     hi.hom_ext
       (i.equalizer_ext
         (t₁.hom_ext fun j => by
-          cases' j with j
+          obtain ⟨j⟩ := j
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Limits/Constructions/LimitsOfProductsAndEqualizers.lean:87]: More one-variable cases (no pun intended): perhaps worth discussing/was this discussed on zulip already?
I don't think these changes are *worse*, but I'm not convinced the current solution is ideal yet.

File: Mathlib/Computability/TuringMachine.lean [hunk 4]
```diff
@@ -674,7 +674,7 @@ attribute [local simp] Respects TM2.step TM2.stepAux trNormal
 theorem tr_respects : Respects (TM2.step M) (TM1.step (tr M)) TrCfg := by
   -- Porting note (https://github.com/leanprover-community/mathlib4/issues/12129): additional beta reduction needed
   intro c₁ c₂ h
-  cases' h with l v S L hT
+  obtain @⟨l, v, S, L, hT⟩ := h
```
Comment (grunweg) [inline Mathlib/Computability/TuringMachine.lean:677]: Can you combine with the the `rcases` on the next line, please?

**Review by grunweg — COMMENTED** [review]
Reviewed Archive until `Computability`: just a few comments. `CategoryTheory` has a few more single-component `cases'`.

File: Mathlib/CategoryTheory/Functor/FullyFaithful.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Functor/FullyFaithful.lean]: Done.

File: Mathlib/Computability/TuringMachine.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Mathlib/Computability/TuringMachine.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Constructions/LimitsOfProductsAndEqualizers.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Limits/Constructions/LimitsOfProductsAndEqualizers.lean]: Done.

File: Mathlib/Analysis/Calculus/Taylor.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/Calculus/Taylor.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean [hunk 5]
```diff
@@ -306,11 +306,11 @@ theorem BinaryCofan.mk_inr {P : C} (ι₁ : X ⟶ P) (ι₂ : Y ⟶ P) : (Binary
 
 /-- Every `BinaryFan` is isomorphic to an application of `BinaryFan.mk`. -/
 def isoBinaryFanMk {X Y : C} (c : BinaryFan X Y) : c ≅ BinaryFan.mk c.fst c.snd :=
-    Cones.ext (Iso.refl _) fun j => by cases' j with l; cases l; repeat simp
+    Cones.ext (Iso.refl _) fun j => by obtain ⟨l⟩ := j; cases l; repeat simp
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean:309]: Maybe
```suggestion
    Cones.ext (Iso.refl _) fun ⟨l⟩ => by cases l; repeat simp
```
unless this is a quotient pattern.

Comment (Parcly-Taxel) [reply Mathlib/CategoryTheory/Limits/Shapes/BinaryProducts.lean]: Should have been replaced for the other category theory files touched.

**Review by j-loreaux — COMMENTED** [review]
LGTM now. Thanks!

bors merge
